US08058276B2
6-(6-Benzyloxymethyl-pyrimidin-4-yloxy)-benzofuran-3-carboxylic acid (3-trifluoromethyl-phenyl)-amide
In a dried vessel, 55 μl (0.44 mMol) 3-trifluoromethyl-aniline are dissolved in 6 ml toluene and cooled in an ice bath. Then 0.66 ml Me3Al (2 M in toluene; 1.32 mMol) are added via syringe. After 1 h at rt, a solution of 156 mg (0.40 mMol) 6-(6-benzyloxymethyl-pyrimidin-4-yloxy)-benzofuran-3-carboxylic acid methyl ester in 2 ml THF is added and the yellowish solution is stirred for 1¼ h in an oil bath of 110° C. The solution is cooled in an icebath and hydrolyzed with 15 ml of a sat. NH4Cl solution. After 15 min stirring, the mixture is diluted with EtOAc and water, the aq. phase separated off and extracted twice with EtOAc. The organic layers are washed with water and brine, dried (Na2SO4) and concentrated. Chromatography (Combi Flash; hexane/EtOAc 4:1→EtOAc) gives the title compound: MS: [M+1]+=520; TLC(hexane/EtOAc 2:1): Rf=0.17.

reactant | 3-trifluoromethyl-aniline | 0.44 mMol, 55 μl | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | Me3Al | 1.32 mMol, 2 M, 0.66 ml | C[Al](C)C
reactant | 6-(6-benzyloxymethyl-pyrimidin-4-yloxy)-benzofuran-3-carboxylic acid methyl ester | 0.40 mMol, 156 mg | COC(=O)C1=COC2=C1C=CC(=C2)OC2=NC=NC(=C2)COCC2=CC=CC=C2 | C22H18N2O5
reactant | NH4Cl | 15 ml | [NH4+].[Cl-]
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 6-(6-Benzyloxymethyl-pyrimidin-4-yloxy)-benzofuran-3-carboxylic acid (3-trifluoromethyl-phenyl)-amide | FC(C=1C=C(C=CC1)NC(=O)C1=COC2=C1C=CC(=C2)OC2=NC=NC(=C2)COCC2=CC=CC=C2)(F)F | C28H20F3N3O4
